US08470839B2
Preparation of N′-[1-(2,6-dichlorobenzoyl)-5-fluoro-2-oxo-1,2-dihydro-pyrimidin-4-yl]-N,N-dimethylformamidine (3)
To an 8 mL screw-cap vial were added dichloromethane (CH2Cl2; 4 mL), N′-(5-fluoro-2-hydroxy-pyrimidin-4-yl)-N,N-dimethylformamidine (100 mg, 0.54 mmol), and triethylamine (Et3N; 120 mg, 1.2 mmol). To this mixture was added 2,6-dichlorobenzoyl chloride (113 mg, 0.54 mmol), and the resulting mixture was shaken at room temperature for 24 h. After evaporation to dryness, the residue was taken up in N,N-dimethylformamide (DMF; 2 mL), filtered, and placed directly onto a reverse phase chromatography column. After elution, the title compound was isolated as a pale yellow solid (75 mg, 39%): mp 185-187° C.; 1H NMR (300 MHz, CDCl3) δ 8.80 (s, 1H), 8.20 (d, J=5.6 Hz, 1H), 7.31-7.20 (m, 3H), 3.23 (s, 3H), 3.21 (s, 3H); ESIMS m/z 357 ([M+H]+).

reactant | N′-(5-fluoro-2-hydroxy-pyrimidin-4-yl)-N,N-dimethylformamidine | 0.54 mmol, 100 mg | FC=1C(=NC(=NC1)O)N=CN(C)C | C7H9FN4O
reactant | triethylamine | 1.2 mmol, 120 mg | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzoyl chloride | 0.54 mmol, 113 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N′-[1-(2,6-dichlorobenzoyl)-5-fluoro-2-oxo-1,2-dihydro-pyrimidin-4-yl]-N,N-dimethylformamidine | ClC1=C(C(=O)N2C(N=C(C(=C2)F)N=CN(C)C)=O)C(=CC=C1)Cl | C14H11Cl2FN4O2
